US07855297B2
By the reaction and treatment in the same manner as in Example 132 using 5-benzyloxy-N-(5-methylpyridin-2-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.43 g) and 5-chloromethyl-2-ethyl-4-methylthiazole (0.68 g) as starting materials, 5-benzyloxy-N-[(2-ethyl-4-methylthiazol-5-yl)methyl]-N-(5-methylpyridin-2-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.92 g) was obtained.

reactant | 5-benzyloxy-N-(5-methylpyridin-2-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.43 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)NC1=NC=C(C=C1)C | C24H24N2O2
reactant | 5-chloromethyl-2-ethyl-4-methylthiazole | 0.68 g | ClCC1=C(N=C(S1)CC)C | C7H10ClNS
product | 5-benzyloxy-N-[(2-ethyl-4-methylthiazol-5-yl)methyl]-N-(5-methylpyridin-2-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.92 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C1=NC=C(C=C1)C)CC1=C(N=C(S1)CC)C | C31H33N3O2S
